US07851500B2
a) Preparation of 3-(3-(pyridine-2-ylamino)-1H-pyrazol-5-ylthio)benzoic acid
A stirred solution of ethyl 3-(3-amino-1H-pyrazol-5-ylthio)benzoate (0.150 g, 0.57 mmol), 2-chloropyridine (0.130 g, 1.14 mmol) in isopropanol (2 mL) was treated with hydrobromic acid (0.150 mL) and heated at 175° C. in a microwave oven for 30 minutes. The mixture was then diluted with water (1.5 mL) and treated with sodium hydroxide (1 pellet). The reaction was stirred at room temperature overnight, then concentrated to dryness. The residue was dissolved in methanol, acidified with conc. hydrochloric acid and purified on Prep HPLC (MeCN/H2O/5 mM NH4OAc) to give the title material (0.113 g, 62%) as a solid. The compound was used as such in the next reaction.

reactant | ethyl 3-(3-amino-1H-pyrazol-5-ylthio)benzoate | 0.57 mmol, 0.150 g | NC1=NNC(=C1)SC=1C=C(C(=O)OCC)C=CC1 | C12H13N3O2S
reactant | 2-chloropyridine | 1.14 mmol, 0.130 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | hydrobromic acid | 0.150 mL | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
solvent | water | 1.5 mL | O | H2O
product | 3-(3-(pyridine-2-ylamino)-1H-pyrazol-5-ylthio)benzoic acid | 0.113 g, 62% | N1=C(C=CC=C1)NC1=NNC(=C1)SC=1C=C(C(=O)O)C=CC1 | C15H12N4O2S
